US09169246B2
Step 3.4. 7-(pyrid-3-yloxy)-5-(2,2,2-trifluoroethyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
A suspension of 7-(pyrid-3-yloxy)-5-(2,2,2-trifluoroethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and (2,2,2-trifluoroethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (0.19 g, 0.39 mmol) in 10 mL of anhydrous hydrogen chloride dissolved in dioxane (4M) is stirred at room temperature for 18 hours. The suspension is filtered and the solid is washed with DCM and then purified by flash chromatography on a C18 reverse phase (H2O/MeCN: 100/0 to 0/100). The gum obtained is dissolved in molar hydrochloric acid solution and then concentrated to dryness to give 78 mg of a white powder (1.2 hydrochloride, 1.15 H2O; yield: 58%).

reactant | 7-(pyrid-3-yloxy)-5-(2,2,2-trifluoroethyl)-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1=CC(=CC=C1)OC=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3COCC[Si](C)(C)C | C23H25F3N4O3Si
reactant | (2,2,2-trifluoroethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.39 mmol, 0.19 g | FC(CN1N(CC=2C(NC=3C=CC=CC3C21)=O)COCC[Si](C)(C)C)(F)F | C18H24F3N3O2Si
reactant | hydrogen chloride | 10 mL | Cl | ClH
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
product | 7-(pyrid-3-yloxy)-5-(2,2,2-trifluoroethyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | 78 mg, yield: 58% | Cl.N1=CC(=CC=C1)OC=1C=CC=2C=3C(C(N(C2C1)CC(F)(F)F)=O)=CNN3 | InChI=1S/C17H11F3N4O2.ClH/c18-17(19,20)9-24-14-6-10(26-11-2-1-5-21-7-11)3-4-12(14)15-13(16(24)25)8-22-23-15;/h1-8H,9H2,(H,22,23);1H
